US06890920B2
(3R)-3-(2-Hydroxy-5-methylphenyl)-N,N-diisopropyl-N-methyl-3-phenylpropan-1-aminium bromide
A sealed mixture of methyl bromide (100 g) and 2-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-methylphenol (14 g) in acetone (100 ml) is stirred at 20-25° C. for 4 days. The mixture is cooled to −10° C. and the precipitate is filtered off and washed with ether and dried to give the title compound, mp 189-191° C. (dec). Anal Calcd for C23H34BrNO: C, 65.71; H, 8.15; Br, 19.00; N, 3.33. Found: C, 65.61; H, 8.34, Br, 19.12; N, 3.32. [α]D (c=1, MeOH) +25° C. 1H NMR [(CD3)2SO] δ 1.25, 2.18, 2.48, 2.81, 3.05, 3.89, 4.22, 6.70, 6.83, 7.08, 7.19, 7.33, and 9.3.

reactant | methyl bromide | 100 g | CBr | CH3Br
reactant | 2-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-methylphenol | 14 g | C(C)(C)N(CC[C@H](C1=CC=CC=C1)C1=C(C=CC(=C1)C)O)C(C)C | C22H31NO
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | (3R)-3-(2-Hydroxy-5-methylphenyl)-N,N-diisopropyl-N-methyl-3-phenylpropan-1-aminium bromide | [Br-].OC1=C(C=C(C=C1)C)[C@H](CC[N+](C)(C(C)C)C(C)C)C1=CC=CC=C1 | InChI=1S/C23H33NO.BrH/c1-17(2)24(6,18(3)4)15-14-21(20-10-8-7-9-11-20)22-16-19(5)12-13-23(22)25;/h7-13,16-18,21H,14-15H2,1-6H3;1H/t21-;/m1./s1
